US07935688B2
t-Butylmagnesium chloride (0.93 mol/l solution in tetrahydrofuran, 75.5 mL, 70.26 mmol) was added to a solution of 3-bromobenzaldehyde (10 g, 54.05 mmol) in tetrahydrofuran (100 mL) in a nitrogen atmosphere at −78° C. The mixture was stirred at the same temperature for one hour and then heated to room temperature. The reaction mixture was poured into a saturated aqueous ammonium chloride solution, followed by extraction with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate and filtered, and the solvent was distilled off under reduced pressure to give crude 1-(3-bromo-phenyl)-2,2-dimethyl-propan-1-ol.

reactant | t-Butylmagnesium chloride | 70.26 mmol, 0.93 mol/l, 75.5 mL | C(C)(C)(C)[Mg]Cl
reactant | 3-bromobenzaldehyde | 54.05 mmol, 10 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-(3-bromo-phenyl)-2,2-dimethyl-propan-1-ol | BrC=1C=C(C=CC1)C(C(C)(C)C)O | C11H15BrO
